US07601716B2
7-(4-Acetylphenyl)-1-benzyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (35 mg) was reacted with 4-acetylphenyl boronic acid as in General Procedure 4B to give the title compound as a yellow solid (20% yield). M.p.=200° C., LCMS: m/z=358.24 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.61 (3H, s), 4.36 (2H, s), 5.22 (2H, s), 7.21 (1H, d, J=2.0 Hz), 7.28 (4H, m), 7.37 (4H, m), 7.96 (2H, d, J=8.3 Hz), 8.01 (1H, d, J=1.8 Hz).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 35 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 4-acetylphenyl boronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 7-(4-Acetylphenyl)-1-benzyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 20% yield | C(C)(=O)C1=CC=C(C=C1)C1=CC2=C(NCC(N2CC2=CC=CC=C2)=O)N=C1 | C22H19N3O2
